US05686459
400 mg (0.96 mmol) of (3aRS,4SR,6RS,6aSR)-2-benzyl-4-(4-bromo-phenyl)-5,6-dimethyl-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3-dione and 360 mg (4.02 mmol) of copper(I) cyanide were suspended in 25 ml of DMF and heated under reflux and under argon for 18 hours. After cooling about 15 ml of DMF were removed, then 30 ml of dichloromethane and 20 ml of concentrated aqueous ammonia solution were added. The mixture was stirred vigorously for a few hours. The blue aqueous phase was separated and the organic phase was washed twice with ammonia solution and once with water. The solvent was removed and the residue was purified chromatographically (hexane/ethyl acetate 2:1+1% triethylamine). 293 mg of (1RS,3SR,3aRS,6aSR)-4-(5-benzyl-2,3-dimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile (85%) were isolated as colourless crystals. M.p.: 188°-190° C. (ethyl acetate). FAB-MS: 719 ([2M+H]+, 3); 512 (3); 360 ([M+H]+, 100); 344 (41); 289 (15); 107 (37); 91 (56).

reactant | (3aRS,4SR,6RS,6aSR)-2-benzyl-4-(4-bromo-phenyl)-5,6-dimethyl-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3-dione | 0.96 mmol, 400 mg | C(C1=CC=CC=C1)N1C(C2C(N(C(C2C1=O)C1=CC=C(C=C1)Br)C)C)=O | C21H21BrN2O2
reactant | copper(I) cyanide | 4.02 mmol, 360 mg | [Cu]C#N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | about 15 ml | CN(C)C=O | C3H7NO
product | (1RS,3SR,3aRS,6aSR)-4-(5-benzyl-2,3-dimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile | 293 mg, 85% | C(C1=CC=CC=C1)N1C(C2C(C1=O)C(N(C2C2=CC=C(C#N)C=C2)C)C)=O | C22H21N3O2
